US04659721
Preparation of 3-[2-Hydroxy-3-[3-(1-piperidylmethyl)benzyloxy]propylamino]-4-amino-5-ethoxycarbonyl-isothiazole-1,1-dioxide
1.39 g (5 mmol) of 2-hydroxy-3-[3-(1-piperidylmethyl)benzyloxy]propylamine are added dropwise to a suspension of 1.24 g (5 mmol) of 4-amino-3-ethoxy-5-ethoxycarbonylisothiazole-1,1-dioxide in 10 ml of acetonitrile and the mixture is stirred for 5 hours at room temperature. The residue obtained after evaporation of the solvent under vacuum is chromatographed with methanol against silica gel. The main fraction yields 2.06 g (86%) of the title compound.

reactant | 2-hydroxy-3-[3-(1-piperidylmethyl)benzyloxy]propylamine | 5 mmol, 1.39 g | OC(CN)COCC1=CC(=CC=C1)CN1CCCCC1 | C16H26N2O2
reactant | 4-amino-3-ethoxy-5-ethoxycarbonylisothiazole-1,1-dioxide | 5 mmol, 1.24 g | NC=1C(=NS(C1C(=O)OCC)(=O)=O)OCC | C8H12N2O5S
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-[2-Hydroxy-3-[3-(1-piperidylmethyl)benzyloxy]propylamino]-4-amino-5-ethoxycarbonyl-isothiazole-1,1-dioxide | 2.06 g, 86% | OC(CNC1=NS(C(=C1N)C(=O)OCC)(=O)=O)COCC1=CC(=CC=C1)CN1CCCCC1 | C22H32N4O6S
